US08115006B2
Preparation (1) of 3-bromo-N-[2-bromo-4-chloro-6-[[(1-cyclopropylethyl]amino]carbonyl]phenyl]-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide
A mixed solution comprising 6.0 g of 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide and 75 ml of ethyl acetate was cooled with ice, 1.4 g of sodium hydroxide (flakes) was added, and then 2.8 g of bromine was added over a period of 2 hours. After stirring at room temperature for 18 hours, 60 ml of water was added to the reaction liquid, followed by extraction with ethyl acetate. The organic layer was washed with a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the precipitated crystals were washed with 20 ml of a mixed solution of ethyl acetate and hexane (1:5) and subjected to filtration to obtain 6.2 g of the desired product in the form of white crystals.

reactant | 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide | 6.0 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1)Cl)C(NC(C)C1CC1)=O)C1=NC=CC=C1Cl | C21H18BrCl2N5O2
reactant | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 1.4 g | [OH-].[Na+]
reactant | bromine | 2.8 g | BrBr | Br2
solvent | water | 60 ml | O | H2O
product | 3-bromo-N-[2-bromo-4-chloro-6-[[(1-cyclopropylethyl]amino]carbonyl]phenyl]-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide | 6.2 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C(=O)NC(C)C1CC1)Cl)Br)C1=NC=CC=C1Cl | C21H17Br2Cl2N5O2
